US05376684
A solution of 7.2 g of 3-chloro-2(R)-hydroxy-propyl-(diethoxymethyl)phosphinic acid ethyl ester, 3.6 g of Hunig base and 6.5 g of 3,4-dichlorobenzylamine in 20 ml of anhydrous ethanol is heated at reflux for 4 days. The mixture is concentrated to dryness by evaporation and the residue is partitioned between dichloromethane and water. The organic phase is separated off, dried over sodium sulfate, concentrated by evaporation and purified by chromatography on silica gel, yielding 3-[N-(3,4-dichlorobenzyl)amino]-2(S)-hydroxy-propyl(diethoxymethyl)phosphinic acid ethyl ester in the form of a yellowish oil; 1H-NMR (CD3Cl3 /D2O): δ=7.43 (1H,m,phenyl), 7.39 (1H,m,phenyl), 7.15 (1H,m,phenyl), 4.70 (1H,s,CHP), 4.20 (3H,m,CHO+CH2OP), 3.83 (2H,m, CH2OC), 3.70 (4H,m,CH2 phenyl+CH2OC), 2.65 (2H,m,CH2N), 2.20-1.71 (2H,m, CH2P), 1.40-1.26 (6H,m, 3×CH3).

reactant | 3-chloro-2(R)-hydroxy-propyl-(diethoxymethyl)phosphinic acid ethyl ester | 7.2 g | C(C)OP(=O)(C(OCC)OCC)C[C@H](CCl)O | C10H22ClO5P
reactant | Hunig base | 3.6 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 3,4-dichlorobenzylamine | 6.5 g | ClC=1C=C(CN)C=CC1Cl | C7H7Cl2N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3-[N-(3,4-dichlorobenzyl)amino]-2(S)-hydroxy-propyl(diethoxymethyl)phosphinic acid ethyl ester | C(C)OP(=O)(C(OCC)OCC)C[C@H](CNCC1=CC(=C(C=C1)Cl)Cl)O | C17H28Cl2NO5P
